US07923561B2
5-Chloro-thiophene-2-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-5-yl]-amide
The title compound, MS: m/e=456.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-nitro-2-chloroquinoline, 5-chlorothiophene-2-sulfonylchloride and (R)-1-aminoindane.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-chlorothiophene-2-sulfonylchloride | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
product | 5-Chloro-thiophene-2-sulfonic acid [2-((R)-indan-1-ylamino)-quinolin-5-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C=1SC(=CC1)Cl | C22H18ClN3O2S2
